* Simple generic single-pole OpAmp model
* Parameters are pole frequency, gain, offset, output resistance.
* the output is limited to the supply voltage
* Author Holger Vogt, Public Domain
.subckt genopa1 in+ in- vcc vee out params: POLE=20 GAIN=20k VOFF=10m ROUT=10
* add offset voltage
  Voff in+ inoff dc {VOFF}
* gain stage with RC pole
  G10 0 int inoff in- 100u
  R1 int 0 {GAIN/100u}
  C1 int 0 {1/(6.28*(GAIN/100u)*POLE)}
* output decoupling, output resistance
  Eout 2 0 int 0 1
  Rout 2 out {ROUT}
* output limited to vee, vcc
  Elow lee 0 vee 0 1
  Ehigh lcc 0 vcc 0 1
  Dlow lee int Dlimit
  Dhigh int lcc Dlimit
  .model Dlimit D N=0.01
*
.ends
